US04260816
3-[2-(1-Naphthyloxy)ethylamino]benzoic acid
A solution of 3.2 g. of methyl 3-[2-(1-naphthyloxy)ethylamino]benzoate and 1.68 g. of potassium hydroxide in 40 ml. of 95% ethanol is heated to reflux for 4 hours. After cooling and diluting with 80 ml. of water, the solution is acidified with concentrated HCl and filtered. Recrystallization from acetonitrile affords the white desired product, m.p. 150°-152° C.

reactant | methyl 3-[2-(1-naphthyloxy)ethylamino]benzoate | C1(=CC=CC2=CC=CC=C12)OCCNC=1C=C(C(=O)OC)C=CC1 | C20H19NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 3-[2-(1-Naphthyloxy)ethylamino]benzoic acid | C1(=CC=CC2=CC=CC=C12)OCCNC=1C=C(C(=O)O)C=CC1 | C19H17NO3
